US07595312B2
13b (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-benzyloxy-propionic acid
A solution of 0.34 g (8.0 mmol) lithium hydroxide hydrate and 1.38 mL (16 mmol, 35% in water) H2O2 in 25 mL water was added to a solution, cooled to 0° C., of 2.1 g (3.94 mmol) (S)-3-[(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-benzyloxy-propionyl]-4-benzyl-oxazolidin-2-one in 50 mL THF and the reaction mixture was stirred for 2 h at 0° C. 5 mL of saturated Na2SO3 solution and 5 mL of saturated NaHCO3 solution were added, the mixture was stirred for another 30 min and then the THF was eliminated i.vac. The aqueous residue was extracted twice with 50 mL EtOAc in each case and the combined organic phases were dried over MgSO4. After the desiccant and solvent had been eliminated the crude product was further reacted without purification.

reactant | lithium hydroxide hydrate | 8.0 mmol, 0.34 g | O.[OH-].[Li+]
reactant | H2O2 | 16 mmol, 1.38 mL | OO | H2O2
reactant | (S)-3-[(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-benzyloxy-propionyl]-4-benzyl-oxazolidin-2-one | 3.94 mmol, 2.1 g | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OCC1=CC=CC=C1)Cl | C27H24ClF3N2O4
reactant | Na2SO3 | 5 mL | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | water | 25 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-benzyloxy-propionic acid | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)O)OCC1=CC=CC=C1)Cl | C17H15ClF3NO3
